US04997836
A solution of 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride (2.14 g) in dichloromethane (20 ml) is added dropwise, taking 40 minutes while stirring at 0° C., to a mixture of methyl piperazine-2-carboxylate hydrochloride (1.75 g), triethylamine (3.2 g) and dichloromethane (40 ml). The reaction mixture is poured into ice-water and shaken. The organic layer is separated and subjected to distillation under reduced pressure. The residue is dissolved in 1N-HCl (20 ml) and washed with ethyl acetate. The aqueous layer is separated and then neutralized with sodium hydrogencarbonate, followed by extraction with dichloromethane. The organic layer is dried, and the solvent is distilled off. Crystals obtained from the residue are recrystallized from ethyl acetate - hexane to afford methyl 4-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine-2carboxylate as colorless needles (2.45 g), m.p. 103-104° C.

reactant | 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride | 2.14 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)Cl)C1)OC | C14H15ClO3
reactant | methyl piperazine-2-carboxylate hydrochloride | 1.75 g | Cl.N1C(CNCC1)C(=O)OC
reactant | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | methyl 4-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine-2carboxylate | 2.45 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CC(NCC2)C(=O)OC)C1)OC | C20H26N2O5
